US05101048
Preparation of 4-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 1a)
A suspension of 192 mg (0.44.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl trichloroacetimidate, 71 mg (0.52.10-3 mol) of 4-mercaptobenzonitrile, 20 mg (0.15.10-3 mol) of zinc chloride and a 400 pm sieve in 2 ml of acetonitrile is stirred for 4 h under an inert atmosphere. The reaction mixture is then filtered on Celite® in ethyl acetate and subsequently washed with a 1N solution of sodium hydroxide, water and finally a saturated solution of sodium chloride, dried over magnesium sulfate and evaporated under reduced pressure. After precipitation in ether, 42 mg (yield: 23%) of the expected product are obtained.

reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl trichloroacetimidate | 44.10-3 mol, 192 mg | ClC(C(O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CS1)=N)(Cl)Cl | C13H16Cl3NO7S
reactant | 4-mercaptobenzonitrile | 52.10-3 mol, 71 mg | SC1=CC=C(C#N)C=C1 | C7H5NS
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | zinc chloride | 15.10-3 mol, 20 mg | [Cl-].[Zn+2].[Cl-]
product | 4-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 42 mg, yield: 23% | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO6S2
